US04873244
A mixture of (3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4-methyl5-oxo-6-chloro-4,5-dihydro-imidazo(1,5-a)quinazoline (0.4 g, 1.2 mmol), benzyl alcohol (0.32 g, 3 mmol), and sodium hydride (55% dispension in oil, 0.13 g, 3 mmol) in 20 ml of dry DMF (dimethylformamide) was stirred for 5 h at 110° C., then cooled to room temperature and was thereafter poured into 30 ml of water and 5 ml of ether. The mixture was then stirred for 1 h at 0° C. and the precipitate was filtered off, rinsed with water and dried giving 0.26 g (53%) of 3-(5-cyclopropyl-1.2.4-oxadiazol-3-yl)-4-methyl-5-oxo-6-benzyloxy-4,5-dihydro-imidazo (1,5-a)quinazoline, M.p. 221°-224° C.

reactant | 3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4-methyl5-oxo-6-chloro-4,5-dihydro-imidazo(1,5-a)quinazoline | 1.2 mmol, 0.4 g | C1(CC1)C1=NC(=NO1)C=1N=CN2C1N(C(C1=C(C=CC=C21)Cl)=O)C | C16H12ClN5O2
reactant | benzyl alcohol | 3 mmol, 0.32 g | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 3 mmol, 0.13 g | [H-].[Na+]
reactant | water | 30 ml | O | H2O
solvent | DMF | 20 ml | CN(C=O)C | C3H7NO
solvent | ether | 5 ml | CCOCC | C4H10O
product | 3-(5-cyclopropyl-1.2.4-oxadiazol-3-yl)-4-methyl-5-oxo-6-benzyloxy-4,5-dihydro-imidazo (1,5-a)quinazoline | 0.26 g, 53% | C1(CC1)C1=NC(=NO1)C=1N=CN2C1N(C(C1=C(C=CC=C21)OCC2=CC=CC=C2)=O)C | C23H19N5O3
